### PR TITLE
[Merged by Bors] - feat: `a ^ n = 1 ↔ n = 0` and similar

### PR DESCRIPTION
**Pull request by judithludwig**
This PR adds a few lemmas about GroupsWithZero, more precisely:

- the lemmas `zero_pow_eq_one₀`, `zero_zpow_eq_one₀` to Algebra.GroupWithZero.Basic and 

- `zpow_le_zpow_iff_right_of_lt_one₀`, `zpow_lt_zpow_iff_right_of_lt_one₀` and `zpow_eq_one_iff_right₀` to Algebra.Order.GroupWithZero.Unbundled.

Used in project Formalization of the Bruhat-Tits Tree.
Co-authored-by: Christian Merten <christian@merten.dev>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 1]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
...
+  contrapose! hmn
+  exact zpow_lt_zpow_right₀ ha hmn
+
+lemma le_of_zpow_le_zpow_of_lt_one₀ (ha₀ : 0 < a) (ha₁ : a < 1) {m n : ℤ}
+    (hmn : a ^ m ≤ a ^ n) :
+    n ≤ m := by
+  contrapose! hmn
+  exact zpow_lt_zpow_of_lt_one₀ ha₀ ha₁ hmn
+
+lemma eq_zero_of_zero_pow_eq_one₀ (ha : (0 : α) ^ n = 1) : n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:260]: This can be made an iff, is true under the mere assumptions `[MonoidWithZero M₀] [Nontrivial M₀]`, and should be located in `Algebra.GroupWithZero.Basic` just after `zero_pow_eq`

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 2]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
...
+  induction n with
+  | zero => rfl
+  | succ n _ => simp at ha
+
+lemma eq_zero_of_zero_zpow_eq_one₀ {n : ℤ} (ha : (0 : α) ^ n = 1) : n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:265]: This can be made an iff, is true under the mere assumptions `[GroupWithZero M₀] [Nontrivial M₀]`, and should be located in `Algebra.GroupWithZero.Basic` just after `zero_zpow_eq`

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 3]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
 lemma pow_lt_pow_right₀ (ha : 1 < a) (hmn : m < n) : a ^ m < a ^ n := by
   induction' hmn with n _ ih; exacts [pow_lt_pow_succ ha, lt_trans ih (pow_lt_pow_succ ha)]
 
+lemma zpow_lt_zpow_of_lt_one₀ (ha₀ : 0 < a) (ha₁ : a < 1) {m n : ℤ} (hmn : m < n) : a ^ n < a ^ m :=
+  zpow_right_strictAnti₀ ha₀ ha₁ hmn
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:247]: This is a special case of `zpow_lt_zpow_right_of_lt_one₀` and should be deleted

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 4]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
...
+
+lemma le_of_zpow_le_zpow₀ (ha : 1 < a) {n m : ℤ} (hmn : a ^ m ≤ a ^ n) :
+    m ≤ n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:250]: This is superseded by `zpow_le_zpow_iff_right₀` and should be deleted

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 5]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
...
+  contrapose! hmn
+  exact zpow_lt_zpow_right₀ ha hmn
+
+lemma le_of_zpow_le_zpow_of_lt_one₀ (ha₀ : 0 < a) (ha₁ : a < 1) {m n : ℤ}
+    (hmn : a ^ m ≤ a ^ n) :
+    n ≤ m := by
+  contrapose! hmn
+  exact zpow_lt_zpow_of_lt_one₀ ha₀ ha₁ hmn
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:258]: This can be made an iff, should be called `zpow_lt_zpow_iff_right_of_lt_one₀` and should be proved and located similarly to `zpow_lt_zpow_iff_right₀`

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 6]
```diff
@@ -243,6 +243,43 @@ lemma pow_lt_pow_succ (ha : 1 < a) : a ^ n < a ^ n.succ := by
...
+  wlog hn : 0 ≤ n
+  · rw [← Int.neg_eq_zero]
+    apply this (α := α)
+    · simpa
+    · omega
+  have : n.toNat = 0 := eq_zero_of_zero_pow_eq_one₀ (α := α) <| by
+    rwa [← zpow_natCast, Int.toNat_of_nonneg hn]
+  omega
+
+lemma eq_zero_of_zpow_eq_one₀ (ha : a < 1) {n : ℤ} (han : a ^ n = 1) : n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:275]: This can be made an iff, weakened to `a ≠ 1`, and should be proved using and moved close to `zpow_right_inj₀`

**Review by YaelDillies — COMMENTED** [review]
Thanks for the lemmas! As previously stated, `LinearOrderedCommGroupWithZero` and all its files are on their way to being deprecated because all lemmas can be generalised to also include linear ordered semifields. Here are indications on how to generalise everything.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 4 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: deleted lemma

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 3 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:247]: I'm confused. The conclusion of your lemma [zpow_lt_zpow_right_of_lt_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/GroupWithZero/Unbundled.html#zpow_lt_zpow_right_of_lt_one%E2%82%80)₀ is `a ^ n ≤ a ^ m`, and not 
`a ^ n < a ^ m `. 
(From the name I would have expected the conclusion to be `a ^ n < a ^ m `.)
I do want the version with strict inequality.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:247]: Whoops, looks like a typo. It should say `<`. Feel free to fix it in this PR.

Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:247]: I think your lemma [zpow_lt_zpow_right_of_lt_one₀](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/GroupWithZero/Unbundled.html#zpow_lt_zpow_right_of_lt_one%E2%82%80) is in fact lemma [zpow_le_zpow_right_of_le_one₀](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/GroupWithZero/Unbundled.html#zpow_le_zpow_right_of_le_one%E2%82%80).

I'll fix this, so that `zpow_lt_zpow_of_lt_one₀` is what it should be.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 5 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: done

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 6 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: done.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 2 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: made it into an iff statement, and moved it to the suggested place.

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 7]
```diff
@@ -146,6 +147,16 @@ lemma zero_pow_eq (n : ℕ) : (0 : M₀) ^ n = if n = 0 then 1 else 0 := by
   · rw [h, pow_zero]
   · rw [zero_pow h]
 
+lemma eq_zero_of_zero_pow_eq_one₀ [Nontrivial M₀] : (0 : M₀) ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:150]:
```suggestion
lemma zero_pow_eq_one₀ [Nontrivial M₀] : (0 : M₀) ^ n = 1 ↔ n = 0 := by
```

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 8]
```diff
@@ -146,6 +147,16 @@ lemma zero_pow_eq (n : ℕ) : (0 : M₀) ^ n = if n = 0 then 1 else 0 := by
...
+  constructor
+  · intro ha
+    induction n with
+    | zero => rfl
+    | succ n _ => simp at ha
+  intro h0
+  rw[zero_pow_eq]
+  exact if_pos h0
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:158]:
```suggestion
  rw [zero_pow_eq, zero_ne_one.ite_eq_left]
```

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 9]
```diff
@@ -389,6 +400,21 @@ lemma zero_zpow_eq (n : ℤ) : (0 : G₀) ^ n = if n = 0 then 1 else 0 := by
   · rw [h, zpow_zero]
   · rw [zero_zpow _ h]
 
+lemma eq_zero_of_zero_zpow_eq_one₀ {n : ℤ} : (0 : G₀) ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:403]:
```suggestion
lemma zero_zpow_eq_one₀ {n : ℤ} : (0 : G₀) ^ n = 1 ↔ n = 0 := by
```

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 10]
```diff
@@ -389,6 +400,21 @@ lemma zero_zpow_eq (n : ℤ) : (0 : G₀) ^ n = if n = 0 then 1 else 0 := by
...
+    rw [← Int.neg_eq_zero]
+    apply this (G₀ := G₀)
+    · simpa
+    · omega
+    have : n.toNat = 0 := eq_zero_of_zero_pow_eq_one₀ (M₀ := G₀).mp <| by
+      rwa [← zpow_natCast, Int.toNat_of_nonneg hn]
+    omega
+  · intro h
+    rw [h]
+    exact zpow_zero 0
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:416]:
```suggestion
  rw [zero_zpow_eq, zero_ne_one.ite_eq_left]
```

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 11]
```diff
@@ -1512,6 +1515,10 @@ lemma zpow_right_injective₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : Injective fun
 @[simp] lemma zpow_right_inj₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : a ^ m = a ^ n ↔ m = n :=
   (zpow_right_injective₀ ha₀ ha₁).eq_iff
 
+lemma eq_zero_of_zpow_eq_one₀ (ha₀: 0 < a) (ha₁ : a ≠ 1) {n : ℤ}: a ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1518]:
```suggestion
lemma zpow_eq_one₀ (ha₀: 0 <= a) (ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
and can you please remove the `a = 0` special case you are introducing in this PR?

Sorry, writing from phone

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 12]
```diff
@@ -1512,6 +1515,10 @@ lemma zpow_right_injective₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : Injective fun
...
+  rw [← pow_zero a, ← zpow_natCast a (n := 0)]
+  apply zpow_right_inj₀ ha₀ ha₁
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1520]:
```suggestion
  simpa using zpow_right_inj₀ ha₀ ha₁ (n := 0)
```

File: Mathlib/Algebra/GroupWithZero/Basic.lean (hunk 8 above)
Comment (judithludwig) [reply Mathlib/Algebra/GroupWithZero/Basic.lean:158]: Your suggestion doesn't seem to work.

File: Mathlib/Algebra/GroupWithZero/Basic.lean (hunk 10 above)
Comment (judithludwig) [reply Mathlib/Algebra/GroupWithZero/Basic.lean]: same here, I'm getting an error message if I try the code

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean (hunk 11 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean]: I don't understand. I am assuming `0 < a` in the lemma.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean]: Yes, but it's also true for `a = 0` (as per your lemma above), so you can generalise the proof 😉

File: Mathlib/Algebra/GroupWithZero/Basic.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Basic.lean]: Oh the lemma is called `Ne.ite_eq_left_iff`, so I guess
```suggestion
  rw [zero_zpow_eq, zero_ne_one.ite_eq_left_iff]
```

Comment (judithludwig) [reply Mathlib/Algebra/GroupWithZero/Basic.lean]: Well and I guess I need to use `one_ne_zero` and not `zero_ne_one`.

File: Mathlib/Algebra/GroupWithZero/Basic.lean (hunk 8 above)
Comment (judithludwig) [reply Mathlib/Algebra/GroupWithZero/Basic.lean]: I guess what you meant was: `rw [zero_pow_eq, one_ne_zero.ite_eq_left_iff]`. At least this seems to work.

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean (hunk 11 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean]: ah that's what you meant. ok, I've generalized it.

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 13]
```diff
@@ -1512,6 +1515,11 @@ lemma zpow_right_injective₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : Injective fun
 @[simp] lemma zpow_right_inj₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : a ^ m = a ^ n ↔ m = n :=
   (zpow_right_injective₀ ha₀ ha₁).eq_iff
 
+lemma zpow_eq_one₀ (ha₀: 0 <= a)(ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1518]:
```suggestion
lemma zpow_eq_one₀ (ha₀ : 0 \le a)(ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
and we don't seem to have the `pow` version, could you add it as well?

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 14]
```diff
@@ -1512,6 +1515,11 @@ lemma zpow_right_injective₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : Injective fun
 @[simp] lemma zpow_right_inj₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : a ^ m = a ^ n ↔ m = n :=
   (zpow_right_injective₀ ha₀ ha₁).eq_iff
 
+lemma zpow_eq_one₀ (ha₀ : 0 ≤ a)(ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1518]: Apologies. One day we will have an autoformatter
```suggestion
lemma zpow_eq_one₀ (ha₀ : 0 ≤ a) (ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```

Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1518]: I didn't find a `pow` version. Could you add it?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 5 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: @YaelDillies Could you explain what the "right" in the name refers to?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: It refers to the fact that we are considering the binary operator `^` as a function of its right argument, namely `a ^ ·`. `_left` would refer to the function `· ^ n` instead

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 15]
```diff
@@ -1512,6 +1518,11 @@ lemma zpow_right_injective₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : Injective fun
 @[simp] lemma zpow_right_inj₀ (ha₀ : 0 < a) (ha₁ : a ≠ 1) : a ^ m = a ^ n ↔ m = n :=
   (zpow_right_injective₀ ha₀ ha₁).eq_iff
 
+lemma zpow_eq_one₀ (ha₀ : 0 ≤ a) (ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1521]:
```suggestion
lemma zpow_eq_one_iff_right₀ (ha₀ : 0 ≤ a) (ha₁ : a ≠ 1) {n : ℤ} : a ^ n = 1 ↔ n = 0 := by
```
to avoid confusion with lemmas like `pow_eq_one_iff`

**Review by YaelDillies — COMMENTED** [review]
Don't forget to update the PR description

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean (hunk 14 above)
Comment (judithludwig) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean]: can we postpone this to a later PR as I think there are more lemmas missing for a `pow` version (at least if I try to do the proof in analogy with this one)

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 16]
```diff
@@ -6,6 +6,7 @@ Authors: Johan Commelin
 import Mathlib.Algebra.Group.Basic
 import Mathlib.Algebra.GroupWithZero.NeZero
 import Mathlib.Logic.Unique
+import Mathlib.Tactic.WLOG
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:9]: You don't use `wlog` anymore
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
LGTM, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
